US06066658
Ethyl 4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate (25.12 g) was dissolved in chloroform (400 ml); a solution of bromine (15.59 g) in chloroform (20 ml) was added dropwise at room temperature over a period of 30 minutes. After the reaction mixture was stirred at room temperature for 40 minutes, it was washed with a 2% aqueous solution of sodium sulfite (400 ml), water, a saturated aqueous solution of sodium hydrogen carbonate and water in that order, and dried (MgSO4), after which the solvent was distilled off to yield ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate (28.27 g, 87.1%), which was then recrystallized from ethyl acetate-hexane. Light-yellow prisms. Melting point 147-148° C.

reactant | Ethyl 4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate | 25.12 g | CSC1=C2C(=C(S1)C(=O)OCC)CCCC2=O | C12H14O3S2
reactant | bromine | 15.59 g | BrBr | Br2
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate | 28.27 g, 87.1% | BrC1C(C=2C(=C(SC2SC)C(=O)OCC)CC1)=O | C12H13BrO3S2
